US08067445B2
Step 2: {4′-Bromo-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: cyclopropanecarboxylic acid (5-bromo-2-iodo-benzyl)-ethyl-amide and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | cyclopropanecarboxylic acid (5-bromo-2-iodo-benzyl)-ethyl-amide | BrC=1C=CC(=C(CN(C(=O)C2CC2)CC)C1)I | C13H15BrINO
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
product | {4′-Bromo-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)Br)CN(CC)C(=O)C1CC1)=O | C24H28BrNO4
